US07915261B2
Triphenylphosphine (2.8 g) was added to a Tol (50 ml) solution of 3-cyanobenzyl bromide (2.0 g), followed by stirring at 80° C. for 5 hours. This was cooled to room temperature, and the precipitated solid was collected by filtration, and washed with Tol. This was dried under reduced pressure to obtain (3-cyanobenzyl)(triphenyl)phosphonium bromide (3.4 g).

reactant | Triphenylphosphine | 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-cyanobenzyl bromide | 2.0 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
product | (3-cyanobenzyl)(triphenyl)phosphonium bromide | 3.4 g | [Br-].C(#N)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | InChI=1S/C26H21NP.BrH/c27-20-22-11-10-12-23(19-22)21-28(24-13-4-1-5-14-24,25-15-6-2-7-16-25)26-17-8-3-9-18-26;/h1-19H,21H2;1H/q+1;/p-1
